### PR TITLE
Lemmas about gaussian characteristic functions

### PR DESCRIPTION
**Pull request by EtienneC30**
I prove lemmas 3.14 to 3.16 in the blueprint. I switched to the covariance bilinear form instead of the covariance matrix to make things easier (see #47). I fix the blueprint accordingly, and complete the proofs.
The lemma I call `isGaussian_iff_charFun_eq` was called `isGaussian_iff_charFunDual_inner_eq`, which does not seem right to me because it is not about `charFun_dual`. The blueprint used the name `isGaussian_iff_charFun_eq` for the lemma I called `isGaussian_iff_gaussian_charFun`. The idea behind this name is to say "it is Gaussian if and only if it has a Gaussian characteristic function".

depends on #47
depends on #48

### CODE REVIEW

File: blueprint/src/chapters/gaussian.tex [hunk 1]
```diff
@@ -207,45 +209,46 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
 
 \begin{lemma}\label{lem:IsGaussian.charFun_eq}
-  \uses{def:IsGaussian, def:charFun, def:covMatrix}
+  \uses{def:IsGaussian, def:charFun, def:covInnerBilin}
+  \leanok
+  \lean{ProbabilityTheory.IsGaussian.charFun_eq}
 The characteristic function of a Gaussian measure $\mu$ on $E$ is given by
 \begin{align*}
-  \hat{\mu}(t) = \exp\left(i \langle t, m_\mu \rangle - \frac{1}{2} \langle t, \Sigma_\mu t \rangle\right) \: .
+  \hat{\mu}(t) = \exp\left(i \langle t, m_\mu \rangle - \frac{1}{2} C(t, t)\right) \: .
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:220]: The covariance bilinear form for \mu in a Hilbert space is denoted by `C'_\mu` (`C_\mu` is the one defined on the dual). Putting a prime on the most used one was possibly not a great idea, but let's keep is consistent for now.
```suggestion
  \hat{\mu}(t) = \exp\left(i \langle t, m_\mu \rangle - \frac{1}{2} C'_\mu(t, t)\right) \: .
```

File: blueprint/src/chapters/gaussian.tex [hunk 2]
```diff
@@ -207,45 +209,46 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
+\begin{proof}\leanok
+  \uses{lem:isGaussian_iff_charFun_eq, lem:IsGaussian.memLp_id, lem:covarianceBilin_same_eq_variance}
+By Lemma~\ref{lem:isGaussian_iff_charFun_eq}, for every $t \in E$,
 \begin{align*}
   \hat{\mu}(t) = \exp\left(i \mu[\langle t, \cdot \rangle] - \mathbb{V}_\mu[\langle t, \cdot \rangle] / 2\right) \: .
 \end{align*}
-By Lemma~\ref{lem:IsGaussian.memLp_id}, $\mu$ has finite first moment and $\mu[\langle t, \cdot \rangle] = \langle t, m_\mu \rangle$.
-
-TODO: the second moment is also finite and we can get to the covariance matrix.
+By Lemma~\ref{lem:IsGaussian.memLp_id}, $\mu$ has finite first moment and $\mu[\langle t, \cdot \rangle] = \langle t, m_\mu \rangle$. By the same lemma, $\mu$ has finite second moment and for any $t$ we have $\mathbb{V}_\mu[\langle t, \cdot\rangle] = C(t, t)$.
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:230]:
```suggestion
By Lemma~\ref{lem:IsGaussian.memLp_id}, $\mu$ has finite first moment and $\mu[\langle t, \cdot \rangle] = \langle t, m_\mu \rangle$. By the same lemma, $\mu$ has finite second moment and for any $t$ we have $\mathbb{V}_\mu[\langle t, \cdot\rangle] = C'_\mu(t, t)$.
```

File: blueprint/src/chapters/gaussian.tex [hunk 3]
```diff
@@ -207,45 +209,46 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
-A finite measure $\mu$ on $E$ is Gaussian if and only if there exists $m \in E$ and $\Sigma$ positive semidefinite such that for all $t \in E$, the characteristic function of $\mu$ at $t$ is
+  \leanok
+  \lean{ProbabilityTheory.isGaussian_iff_gaussian_charFun, ProbabilityTheory.gaussian_charFun_congr}
+A finite measure $\mu$ on $E$ is Gaussian if and only if there exists $m \in E$ and $C$ positive semidefinite such that for all $t \in E$, the characteristic function of $\mu$ at $t$ is
 \begin{align*}
-  \hat{\mu}(t) = \exp\left(i \langle t, m \rangle - \frac{1}{2} \langle t, \Sigma t \rangle\right) \: ,
+  \hat{\mu}(t) = \exp\left(i \langle t, m \rangle - \frac{1}{2} C(t, t)\right) \: ,
 \end{align*}
-If that's the case, then $m = m_\mu$ and $\Sigma = \Sigma_\mu$.
+If that's the case, then $m = m_\mu$ and $C = C_\mu$.
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:241]:
```suggestion
If that's the case, then $m = m_\mu$ and $C = C'_\mu$.
```

File: blueprint/src/chapters/gaussian.tex [hunk 4]
```diff
@@ -254,11 +257,21 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
-  &= \exp\left(i x \langle u, m \rangle - \frac{1}{2} x^2 \langle u, \Sigma u \rangle\right)
+  &= \exp\left(i x \langle u, m \rangle - \frac{1}{2} x^2 C(u, u)\right)
   \: .
 \end{align*}
-This is the characteristic function of a Gaussian measure on $\mathbb{R}$ with mean $\langle u, m \rangle$ and variance $\langle u, \Sigma u \rangle$.
+This is the characteristic function of a Gaussian measure on $\mathbb{R}$ with mean $\langle u, m \rangle$ and variance $C(u, u)$.
 By Theorem~\ref{thm:ext_of_charFun}, $\langle u, \cdot\rangle_*\mu$ is Gaussian, hence $\mu$ is Gaussian.
+
+By Lemma~\ref{lem:IsGaussian.charFun_eq}, we deduce that for any $t \in E$ we have
+$$\exp\left(i\langle t, m \rangle - \frac{1}{2} C(t, t)\right) = \exp\left(i\langle t, m_\mu \rangle - \frac{1}{2} C_\mu(t, t)\right).$$
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:267]:
```suggestion
$$\exp\left(i\langle t, m \rangle - \frac{1}{2} C(t, t)\right) = \exp\left(i\langle t, m_\mu \rangle - \frac{1}{2} C'_\mu(t, t)\right).$$
```

File: blueprint/src/chapters/gaussian.tex [hunk 5]
```diff
@@ -254,11 +257,21 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
+In particular, for any $t$ there exists $n_t \in \mathbb{Z}$ such that
+$$i\langle t, m \rangle - \frac{1}{2} C(t, t) = i\langle t, m_\mu \rangle - \frac{1}{2} C_\mu(t, t) + 2i\pi n_t.$$
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:269]:
```suggestion
$$i\langle t, m \rangle - \frac{1}{2} C(t, t) = i\langle t, m_\mu \rangle - \frac{1}{2} C'_\mu(t, t) + 2i\pi n_t.$$
```

File: blueprint/src/chapters/gaussian.tex [hunk 6]
```diff
@@ -254,11 +257,21 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
+We deduce that $n$ is a continuous map from $E$ to $\Z$, and thus must be constant because $E$ is connected. By looking at the value at $t = 0$, we deduce that for any $t$, $n_t = 0$. Looking at real and imaginary parts we obtain that for any $t$,
+$$\langle t, m \rangle = \langle t, m_\mu \rangle \quad \text{and} \quad C(t, t) = C_\mu(t, t).$$
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:271]:
```suggestion
$$\langle t, m \rangle = \langle t, m_\mu \rangle \quad \text{and} \quad C(t, t) = C'_\mu(t, t).$$
```

File: blueprint/src/chapters/gaussian.tex [hunk 7]
```diff
@@ -254,11 +257,21 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
+We immediately deduce that $m = m_\mu$. Moreover, because $C$ and $C_\mu$ are symmetric, they are characterized by their values on the diagonal. Indeed, for any $x, y$,
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:272]:
```suggestion
We immediately deduce that $m = m_\mu$. Moreover, because $C$ and $C'_\mu$ are symmetric, they are characterized by their values on the diagonal. Indeed, for any $x, y$,
```

File: blueprint/src/chapters/gaussian.tex [hunk 8]
```diff
@@ -254,11 +257,21 @@ \subsection{Gaussian measures on a finite dimensional Hilbert space}
...
+$$C(x, y) = \frac{1}{2} (C(x + y, x + y) - C(x, x) - C(y, y)).$$
+We deduce that $C = C_\mu$.
```
Comment (RemyDegenne) [inline blueprint/src/chapters/gaussian.tex:274]:
```suggestion
We deduce that $C = C'_\mu$.
```

File: BrownianMotion/Gaussian/Gaussian.lean [hunk 9]
```diff
@@ -0,0 +1,86 @@
...
+lemma IsGaussian.charFun_eq [IsGaussian μ] (t : E) :
+    charFun μ t = exp (⟪t, μ[id]⟫_ℝ * I - covInnerBilin μ t t / 2) := by
+  rw [isGaussian_iff_charFun_eq.1 inferInstance]
+  congr
+  · simp_rw [integral_complex_ofReal, ← integral_inner (IsGaussian.integrable_id μ), id]
+  · rw [covInnerBilin_self (IsGaussian.memLp_id μ 2 (by norm_num))]
+
+lemma isGaussian_iff_gaussian_charFun [IsFiniteMeasure μ] : IsGaussian μ ↔
+    ∃ (m : E) (f : ContinuousBilinForm ℝ E),
+      f.IsPosSemidef ∧ ∀ t, charFun μ t = exp (⟪t, m⟫_ℝ * I - f t t / 2) := by
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/Gaussian.lean:37]:
```suggestion
lemma isGaussian_iff_gaussian_charFun [IsFiniteMeasure μ] :
    IsGaussian μ ↔
    ∃ (m : E) (f : ContinuousBilinForm ℝ E),
      f.IsPosSemidef ∧ ∀ t, charFun μ t = exp (⟪t, m⟫_ℝ * I - f t t / 2) := by
```

File: BrownianMotion/Gaussian/Gaussian.lean [hunk 10]
```diff
@@ -0,0 +1,86 @@
...
+
+open scoped Matrix NNReal Real InnerProductSpace ProbabilityTheory
+
+namespace ProbabilityTheory
+
+variable {E : Type*} [NormedAddCommGroup E] [InnerProductSpace ℝ E]
+  [CompleteSpace E] [MeasurableSpace E] [BorelSpace E] {μ : Measure E}
+
+lemma isGaussian_iff_charFun_eq [IsFiniteMeasure μ] : IsGaussian μ ↔
+    ∀ t, charFun μ t = exp (μ[fun x ↦ ⟪t, x⟫_ℝ] * I - Var[fun x ↦ ⟪t, x⟫_ℝ; μ] / 2) := by
```
Comment (RemyDegenne) [inline BrownianMotion/Gaussian/Gaussian.lean:17]:
```suggestion
lemma isGaussian_iff_charFun_eq [IsFiniteMeasure μ] : 
    IsGaussian μ ↔
    ∀ t, charFun μ t = exp (μ[fun x ↦ ⟪t, x⟫_ℝ] * I - Var[fun x ↦ ⟪t, x⟫_ℝ; μ] / 2) := by
```

File: BrownianMotion/Auxiliary/MeasureTheory.lean [hunk 11]
```diff
@@ -9,6 +9,27 @@ open MeasureTheory
 
 open scoped NNReal ProbabilityTheory
 
+namespace ProbabilityTheory
+
+@[simp]
+lemma charFunDual_eq_charFun_toDual_symm {E : Type*} [NormedAddCommGroup E] [CompleteSpace E]
```
Comment (RemyDegenne) [inline BrownianMotion/Auxiliary/MeasureTheory.lean:15]:
```suggestion
lemma charFun_toDual_symm_eq_charFunDual {E : Type*} [NormedAddCommGroup E] [CompleteSpace E]
```

**Review by RemyDegenne — APPROVED** [review]
Great!
